US05006556
(b) 1-[2-[(5-Bromopentyl)oxy]ethyl]-4-methylbenzene
(17.9 g) as a colourless oil, from 4-methylbenzeneethanol (10.0 g) and 1,5-dibromopentane (50.7 g) with stirring at room temperature for 72 h. T.l.c. (ER-CX 1:19) Rf 0.29.

reactant | 4-methylbenzeneethanol | 10.0 g | CC1=CC=C(C=C1)CCO | C9H12O
reactant | 1,5-dibromopentane | 50.7 g | BrCCCCCBr | C5H10Br2
product | 1-[2-[(5-Bromopentyl)oxy]ethyl]-4-methylbenzene | BrCCCCCOCCC1=CC=C(C=C1)C | C14H21BrO
